US05081131
EXAMPLE 28 2-((3-(1H-imidazol-l-yl)butyl)amino)N,N-dimethylbenz(cd)indol-6-sulfonamid
A mixture of 7.3 g of 1,2-dihydro-N,N-dimethyl-2-thioxobenz(cd)indole-6-sulfonamide, 4.2 g of 3-(1H-imidazol-l-yl)butanamine, 150 ml of ethanol and 9.6 g of mercuric acetate was reacted as described in Example 1, giving 5.5 g of the desired product, mp 221° C.-222° C.

reactant | 1,2-dihydro-N,N-dimethyl-2-thioxobenz(cd)indole-6-sulfonamide | 7.3 g | CN(S(=O)(=O)C=1C=2C3=C(C(NC3=CC1)=S)C=CC2)C | C13H12N2O2S2
reactant | 3-(1H-imidazol-l-yl)butanamine | 4.2 g | N1(C=NC=C1)C(CCN)C | C7H13N3
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-((3-(1H-imidazol-l-yl)butyl)amino)N,N-dimethylbenz(cd)indol-6-sulfonamid | 5.5 g | N1(C=NC=C1)C(CCNC1=NC2=CC=C(C=3C2=C1C=CC3)S(=O)(=O)N(C)C)C | C20H23N5O2S
